US08183246B2
4-{[(2S)-2-Hydroxypropyl]amino}butyric acid tert.-butyl ester
Add 2583 mg (18.69 mmol) potassium carbonate, 2780 mg (12.46 mmol) 4-bromobutyric acid tert.-butyl ester and 184 mg (0.50 mmol) tetra-n-butylammonium iodide to a solution of 936 mg (12.46 mmol) (2S)-1-aminopropan-2-ol in 10 ml THF. Stir the reaction mixture for 48 h at room temperature. After filtering-off the inorganic salts, concentrate the filtrate by vacuum evaporation. Take up the residue in dichloromethane and chromatograph on silica gel (solvent: dichloromethane/methanol/35% aqueous ammonia solution 9:1:0.1). 810 mg (30% of theor.) of the desired product is obtained.

reactant | potassium carbonate | 18.69 mmol, 2583 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyric acid tert.-butyl ester | 12.46 mmol, 2780 mg | C(C)(C)(C)OC(CCCBr)=O | C8H15BrO2
reactant | (2S)-1-aminopropan-2-ol | 12.46 mmol, 936 mg | NC[C@H](C)O | C3H9NO
catalyst | tetra-n-butylammonium iodide | 0.50 mmol, 184 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-{[(2S)-2-Hydroxypropyl]amino}butyric acid tert.-butyl ester | C(C)(C)(C)OC(CCCNC[C@H](C)O)=O | C11H23NO3
